US07763639B2
METHYL 4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERAZINE-1-CARBOXYLATE
To an ice cooled solution of methyl 4-[2-fluoro-3-(methylthio)phenyl]piperazine-1-carboxylate (1.4 g, 4.9 mmol) in sulfuric acid (1 M, 10 ml) was added sodium tungstate (0.016 g, 0.05 mmol) in one portion followed by droppwise addition of hydroperoxide (30%, 1.25 ml, 12.2 mmol). The reaction mixture was warmed to 55° C. and was stirred for 20 h. The reaction mixture was brought to ambient temperature and aqueous sodium hydroxide (5 M, 50 ml) was added. The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic phase was dried (MgSO4) and evaporated to dryness to give the title compound. Yield (1.1 g). MS m/z (rel. intensity, 70 eV) 316 (M+, 58), 296 (30), 228 (bp), 216 (38), 56 (71).

reactant | methyl 4-[2-fluoro-3-(methylthio)phenyl]piperazine-1-carboxylate | 4.9 mmol, 1.4 g | FC1=C(C=CC=C1SC)N1CCN(CC1)C(=O)OC | C13H17FN2O2S
reactant | hydroperoxide | 12.2 mmol, 1.25 ml | [O-]O
reactant | sodium hydroxide | 5 M, 50 ml | [OH-].[Na+]
reactant | sulfuric acid | 1 M, 10 ml | S(O)(O)(=O)=O | H2O4S
catalyst | sodium tungstate | 0.05 mmol, 0.016 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | METHYL 4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]PIPERAZINE-1-CARBOXYLATE | FC1=C(C=CC=C1S(=O)(=O)C)N1CCN(CC1)C(=O)OC | C13H17FN2O4S
